US08492425B2
To a solution of 3-hydroxy-5-methyl-1-(7-methoxynaphthalen-2-yl)-1H-pyrazol (1.51 g, 5.96 mmol) in dimethylformamide (40 ml), cooled down to 0° C., a dispersion in mineral oil at 60% of NaH (0.36 g, 8.94 mmol) was added, the cooling bath was removed, and was left to stirring until it recovered the room temperature (1.5 hrs). Subsequently, 2-chloroethylmorpholine (1.02 g, 6.85 mmol) dissolved in DMF (10 ml) was added dropwise, and the resulting mixture was heated at 60° C. during 20 hrs. Water-ice was added and it was evaporated to dryness in a rotavapor. The resulting slurry was divided between water and ethyl ether. The aqueous phase was newly extracted with a solvent, and the collection of organic phases was washed with water, dried over sodium sulfate, filtered, and evaporated yielding 2.19 g of a crude product, which was purified by crystallization of its chlorhydrate (prepared by dissolving in HCl-saturated dioxane) in isopropyl alcohol-ethyl ether. 1.78 g (74%) of the 4-{2-[1-(7-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine chlorhydrate were obtained as a solid with a m.p.=143-147° C.

reactant | 3-hydroxy-5-methyl-1-(7-methoxynaphthalen-2-yl)-1H-pyrazol | 5.96 mmol, 1.51 g | OC1=NN(C(=C1)C)C1=CC2=CC(=CC=C2C=C1)OC | C15H14N2O2
reactant | NaH | 8.94 mmol, 0.36 g | [H-].[Na+]
reactant | 2-chloroethylmorpholine | 6.85 mmol, 1.02 g | ClCCN1CCOCC1 | C6H12ClNO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-{2-[1-(7-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine | 1.78 g, 74% | COC1=CC=C2C=CC(=CC2=C1)N1N=C(C=C1C)OCCN1CCOCC1 | C21H25N3O3
